US08431563B2
A 100 mL round-bottomed flask was charged with 3-cyclopropylthiomorpholine 1,1-dioxide hydrochloride (1.00 g, 4.72 mmol) and 10 mL of EtOAc. To this was added 15 mL of saturated aqueous NaHCO3. After stirring at room temperature for 15 min, the layers were separated. The organics were dried (MgSO4), filtered, and concentrated to give 3-cyclopropylthiomorpholine 1,1-dioxide (0.800 g) as a colorless oil.

reactant | 3-cyclopropylthiomorpholine 1,1-dioxide hydrochloride | 4.72 mmol, 1.00 g | Cl.C1(CC1)C1NCCS(C1)(=O)=O
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 3-cyclopropylthiomorpholine 1,1-dioxide | 0.800 g | C1(CC1)C1NCCS(C1)(=O)=O | C7H13NO2S
